US05958916
[6-Methoxy-2-(3-methoxyphenyl)-1-naphthalenyl](4-methoxyphenyl)methanone
A solution of [3,4-dihydro-6-methoxy-2-(3-methoxyphenyl)-1-naphthalenyl](4-methoxyphenyl)methanone (14.0 g, 35.0 mmol) was dissolved in anhydrous dioxane (400 mL) under an atmosphere of nitrogen. 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (DDQ, 7.0 g, 31 mmol) was added and the solution was refluxed for 16 hours. The reaction mixture was allowed to cool to ambient temperature and the solid dihydroquinone byproduct (8.8 gm) was removed by filtration and discarded. The filtrate was concentrated to dryness and the residue was purified by silica gel chromatography with chloroform as the isocratic elution solvent. Appropriate fractions gave 13.1 g, (94%) of the desired product as an oil. Although the oil contained some minor impurities, it was used without additional purification. 1H NMR (CDCl3) δ 7.88 (d, J=8.6 Hz, 1H), 7.71-7.54 (m, 4H), 7.21 (d, J=2.6 Hz, 1H), 7.18-7.05 (m, 2H), 6.99-6.89 (m, 2H), 6.78-6.70 (m, 3H), 3.94 (s, 3H), 3.78 (s,3H), 3.69 (s,3H); MS (FD) m/e 398 (M+); Anal. Calcd. for C26H22O4 : C, 78.37; H, 5.57. Found: C, 78.22; H, 5.83.

reactant | [3,4-dihydro-6-methoxy-2-(3-methoxyphenyl)-1-naphthalenyl](4-methoxyphenyl)methanone | 35.0 mmol, 14.0 g | COC=1C=C2CCC(=C(C2=CC1)C(=O)C1=CC=C(C=C1)OC)C1=CC(=CC=C1)OC | C26H24O4
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 31 mmol, 7.0 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | dioxane | 400 mL | O1CCOCC1 | C4H8O2
product | [6-Methoxy-2-(3-methoxyphenyl)-1-naphthalenyl](4-methoxyphenyl)methanone | 94% | COC=1C=C2C=CC(=C(C2=CC1)C(=O)C1=CC=C(C=C1)OC)C1=CC(=CC=C1)OC | C26H22O4
